US05126339
To a stirred and cooled (0° C.) mixture of 3.8 parts of poly(oxymethylene) 37%, 15.5 parts of 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine and 7 parts of glacial acetic acid were added 6.5 parts of 2-methylimidazo[1,2-a]pyridine under nitrogen atmosphere. The whole was heated slowly to 50° C. and stirring was continued at 50° C. for 2 hours. After stirring was continued overnight at room temperature, the reaction mixture was poured into water and the whole was made alkaline with sodium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 6.7 parts (30%) of 1-[(4-fluorophenyl)methyl]-N-[(2-methylimidazo[1,2-a]pyridin-3-yl)methyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 198.1° C. (compound 106).

reactant | poly(oxymethylene) | O(C[*:2])[*:1]
reactant | 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C19H21FN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-methylimidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2)C1 | C8H8N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1H-benzimidazol-2-amine | N1C(=NC2=C1C=CC=C2)N | C7H7N3
